US06586617B1
2-Chloro-4-nitroaniline (1.73 g (10.0 mmol)) was dissolved in 5.0 ml of pyridine. To this, p-toluenesulfonyl chloride (1.91 g (10.0 mmol)) was added with stirring at room temperature. After stirring for 18 hours at room temperature, water (50 ml) was added to the reaction mixture to bring about separation of crystals. The crystals were filtered, washed with water and then dissolved in an aqueous solution of sodium hydroxide. The resulting solution was washed with diethyl ether, and the water layer was made acidic again with hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2.61 g (80%) of 2′-chloro-4′-nitro-p-toluenesulfonanilide as pale yellow crystals.

reactant | 2-Chloro-4-nitroaniline | 10.0 mmol, 1.73 g | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | p-toluenesulfonyl chloride | 10.0 mmol, 1.91 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 50 ml | O | H2O
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
product | 2′-chloro-4′-nitro-p-toluenesulfonanilide | 2.61 g, 80% | ClC1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)[N+](=O)[O-] | C13H11ClN2O4S
